US04009174
The starting material was prepared by refluxing for 72 hours a mixture of methyl 6-methylnicotinate (60.4 g.), anisaldehyde (163.3 g.), acetic anhydride (120 ml.) and xylene (320 ml.). Steam distillation was used to remove the excess anisaldehyde, the acetic acid formed during the reaction and xylene. The residue was dried in the cold, washed with ether, and dried at 60° C. for 12 hours to give methyl 6-p-methoxystyrylnicotinate, m.p. 170° C.

reactant | methyl 6-methylnicotinate | 60.4 g | CC1=NC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | anisaldehyde | 163.3 g | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | acetic anhydride | 120 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | xylene | 320 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl 6-p-methoxystyrylnicotinate | COC1=CC=C(C=CC2=NC=C(C(=O)OC)C=C2)C=C1 | C16H15NO3
